US08669234B2
(1-{2-[5-(6-{2-[2-(2-Methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-ylethynyl}-naphthalen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
Title compound was prepared according to the method employed to prepare Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-ylethynyl}-phenylethynyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (Example CT), substituting {1-[3-(6-Bromo-1H-benzoimidazol-2-yl)-2-aza-bicyclo[2.2.1]heptane-2-carbonyl]-2-methyl-propyl]-carbamic acid methyl ester for (1-{2-[5-(4-bromo-phenylethynyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester and (1-{2-[5-(6-Ethynyl-naphthalen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester for {1-[2-(5-Ethynyl-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester. NMR (MeOH-d4, 400 MHz) δ: 8.19-8.11 (m, 1H), 8.01-7.99 (m, 1H), 7.86-7.71 (m, 3H), 7.57-7.39 (m, 3H), 7.02-6.99 (m, 1H); MS (ESI) m/z 813 [M+H]+.

reactant | carbamic acid methyl ester | COC(N)=O | C2H5NO2
reactant | (1-{2-[5-(4-bromo-phenylethynyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C#CC1=CC=C(C=C1)Br)=O | C22H25BrN4O3
reactant | (1-{2-[5-(6-Ethynyl-naphthalen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C#C)=O | C26H28N4O3
reactant | {1-[2-(5-Ethynyl-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C#C)=O | C16H22N4O3
product | (1-{2-[5-(6-{2-[2-(2-Methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-ylethynyl}-naphthalen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C#CC1=CC2=C(N=C(N2)C2N(C3CCC2C3)C(C(C(C)C)NC(=O)OC)=O)C=C1)=O | C46H52N8O6
